US06528525B1
Methyl 3-[4-(2-t-butoxycarbonylaminoethoxy)phenyl]-2-phenylthiopropionate
In a similar manner to that described in Example 122, a reaction was carried out using methyl 3-[4-(2-t-butoxycarbonylaminoethoxy)phenyl]-2-hydroxypropionate (366 mg), which is obtained in a similar manner to that described in Reference example 39(a), thiophenol (0.17 ml), triphenylphosphine (438 mg) and solution of diethylazodicarboxylate in toluene (40%, 0.29 ml) and the reaction mixture was treated to afford the desired compound (209 mg) as a colorless oil.

reactant | methyl 3-[4-(2-t-butoxycarbonylaminoethoxy)phenyl]-2-hydroxypropionate | 366 mg | C(C)(C)(C)OC(=O)NCCOC1=CC=C(C=C1)CC(C(=O)OC)O | C17H25NO6
reactant | thiophenol | 0.17 ml | C1(=CC=CC=C1)S | C6H6S
reactant | triphenylphosphine | 438 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | toluene | 0.29 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 3-[4-(2-t-butoxycarbonylaminoethoxy)phenyl]-2-phenylthiopropionate | 209 mg | C(C)(C)(C)OC(=O)NCCOC1=CC=C(C=C1)CC(C(=S)OC)C1=CC=CC=C1 | C23H29NO4S
